US05212169
(a) Preparation of methyl 3-(4-pyridinyl)propenoate
Methyl (triphenylphosphoranylidene)acetate (3.4 grams) and 4-pyridine-carboxaldehyde (10.00 grams) were refluxed in tetrahydrofuran under nitrogen overnight. The reaction was evaporated in vacuo, and the residue was suspended in hexane (400 mL), heated to boiling on a steam bath for 5 minutes, and filtered through a filter aide. The filter cake was rinsed with hot hexane (2×200 mL), and the rinses and filtrate were combined and evaporated in vacuo. The crude product was purified by flash chromatography through silica gel 60 (1500 mL) using 3:7 ethyl acetate:methylene chloride. The resulting waxy solid was suspended in a minimum amount of cyclohexane to yield the product as a white crystalline solid. Yield: 7.06 grams (46%).

reactant | Methyl (triphenylphosphoranylidene)acetate | 3.4 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | 4-pyridine-carboxaldehyde | 10.00 grams | N1=CC=C(C=C1)C=O | C6H5NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 3-(4-pyridinyl)propenoate | N1=CC=C(C=C1)C=CC(=O)OC | C9H9NO2
